US04285867
1-Benzyloxy-3-(1,1-dimethylheptyl)benzene
To a 0° C. mixture of 10.1 mmole of n-hexyl magnesium bromide in 5 ml. of hexane is added dropwise a solution of 2.0 g. (7.69 mmole) of 2-(3-benzyloxyphenyl)-2-chloropropane in 14 ml. of hexane. The reaction mixture is stirred 5 minutes longer and then added to 500 ml. of saturated ammonium chloride and 300 ml. ether. The organic extract is dried over magnesium sulfate and evaporated to an oil. The oil is purified via column chromatography on 150 g. of silica gel eluted with hexane to yield 841 mg. (35%) of the title compound as an oil.

reactant | n-hexyl magnesium bromide | 10.1 mmole | C(CCCCC)[Mg]Br
reactant | hexane | CCCCCC | C6H14
reactant | 2-(3-benzyloxyphenyl)-2-chloropropane | 7.69 mmole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C)(C)Cl | C16H17ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 1-Benzyloxy-3-(1,1-dimethylheptyl)benzene | 35% | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C(CCCCCC)(C)C | C22H30O
